US04242519
Methyl α-methylthio(2-thienyl)acetate (1.446 g) was dissolved in 8 ml of anhydrous dimethyl sulfoxide, and while cooling, at 20° C., 290 mg (65% content) of sodium hydride was added. When the mixture was stirred for 30 minutes, the reaction solution turned bluish violet. Methyl iodide (0.60 ml) was added to it over the course of 3 minutes, and the mixture was stirred at 20° C. for 1.5 hours, whereupon the bluish violet color gradually vanished. An aqueous solution of ammonium chloride (0.40 g/30 ml) was added, and the mixture was extracted three times with 20 ml of diethyl ether. The organic layer was washed three times with 10 ml of water, and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was chromatographed on a silica gel column using benzene as an eluent to afford 1.410 g of methyl α-methylthio-α-(2-thienyl)propionate in a yield of 91% as a colorless liquid.

reactant | Methyl α-methylthio(2-thienyl)acetate | 1.446 g | CSC(C(=O)OC)C=1SC=CC1 | C8H10O2S2
reactant | sodium hydride | 290 mg | [H-].[Na+]
reactant | Methyl iodide | 0.60 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 0.40 g | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
product | methyl α-methylthio-α-(2-thienyl)propionate | 1.410 g, yield of 91% | CSC(C(=O)OC)(C)C=1SC=CC1 | C9H12O2S2
